Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough, fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F with PMH of hypothyroidism, was recently seen in ED for 
syncope 2 days ago, re-presents to ER for evaluation of cough, 
fever, and was admitted to Medicine for likely pneumonia  
As per review of OMR, pt was seen in ED on ___ for syncope in 
setting of URI sx and low-grade fever. CT head/neck, CXR, UA,  
and Flu swab were negative. Pt recieved IVF and was discharged 
home. In the subsequent days, pt spoke to multiple providers who 
documented continued dry cough, fevers up to 102, chills. 
However, despite their instructions to present to ED, pt chose 
to be seen in HCA for epi visit on ___ where she was found to 
have + orthostatics so was referred to ED.  
Pt reports that symptoms continued since ED visit, w/ 
non-productive cough and fever (up to 102.3) most bothersome to 
her. She endorsed fatigue, some myalgia/arthralgia, mild nausea, 
mild headache, no vision/hearing changes, no vomiting/diarrhea, 
no SOB, no dysuria or rash. Pt rec'd flu shot this year as she 
works at hospital, and had no sick contacts at home.  
In the ED, initial VS were: 102.9, 88, 151/71, 18, 96%. Was 
given Tylenol and fever resolved. Labs significant for WBC 7 
(75% PMN), Hgb 12.6, plt 186, CHEM wnl, Lactate 1.3, UA 1.008, 
<1 WBC  
CXR showed RLL PNA so was given CTX/Azithromycin, Tylenol and 1L 
NS, blood cultures were drawn, then admitted to medicine for 
further evaluation/management.

ROS: 10 point ROS negative except as otherwise noted in HPI
 
Past Medical History:
-Colonic Adenoma  
-Hypothyroidism  
-Sciatica: MRI ___ with mild foraminal stenosis at L3-4 and 
L4-5.  
-Genital Gerpes  
-Insomnia
-Osteopenia
-h/o UTI

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
Vitals - T 98.7, BP 121/54, HR 81, RR 18, O2 sat 95RA  
GENERAL: NAD, pleasant, sitting in bed  
HEENT: PERRLA, EOMI, MMM, OP clear, no LAD  
CV: RRR no m/r/g, normal S1/S2  
LUNGS: CTA w/ exception of RML/RLL where she has crackles, 
coarse breath sounds and egophony, unlabored breathing, dry 
sounding cough, no sputum production  
ABD: Soft, NT, ND, normoactive BS  
EXT: Warm, well perfused, no edema  
NEURO: AOx3, fluent speech, pleasant  
ACCESS: PIV  

DISCHARGE PHYSICAL EXAM:
============================
VS: 98.6, Tm99.5, 137/60, 112-139/59-61, 73, 72-87, 96%RA  
General: Lying in bed, looks tired
HEENT: atraumtic, PERLL, anicteric sclera
Neck: no LAD
CV: RRR, no murmurs
Lungs: course breath sounds over RLL, no egophany appreciated. 
Frequent more productive cough compared to ___. Speaking 
comfortably in full sentences on RA.
Abdomen: soft, non-distended, non-tender
Ext: WWP, no edema
Neuro: CN II-XII grossly intact, moving all limbs
Skin: no rashes
 
Pertinent Results:
ADMISSION LABS
==================
___ 08:50PM BLOOD WBC-7.0 RBC-3.81* Hgb-12.6 Hct-35.2* 
MCV-92 MCH-33.1* MCHC-35.8* RDW-13.6 Plt ___
___ 08:50PM BLOOD Neuts-75.7* Lymphs-17.8* Monos-5.8 
Eos-0.4 Baso-0.3
___ 08:50PM BLOOD Plt ___
___ 08:50PM BLOOD Glucose-129* UreaN-14 Creat-0.5 Na-134 
K-3.8 Cl-99 HCO3-24 AnGap-15

DISCHARGE LABS
==================
no labs drawn on day of discharge

RELEVANT LABS
================
___ Lactate-1.3

IMAGING
=================
CHEST (PA & LAT) Study Date of ___ 
IMPRESSION:  
Patchy opacity in the right lower lobe is concerning for 
pneumonia. 

ECG ___ 
====================  
Sinus rhythm. Delayed R wave transition. Borderline left atrial 
abnormality. Compared to the previous tracing of ___ the 
findings are similar. 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
93 136 84 ___ 41 
 
MICRO
========
BLOOD CULTURES ___ x 2 sets, ___ x 1 set) pending, NGTD

**FINAL REPORT ___

   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    10,000-100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

 
Brief Hospital Course:
___ y F in good health who presents with 6 days of fever, 
malaise, cough, and 2 episodes of syncope, admitted to medicine 
for community-acquired pneumonia.  

#Pneumonia: fevers, cough, RLL infiltrate. Flu swab negative. 
Started on ceftriaxone/azithromycin in the ED, transitioned to 
PO Levaquin on ___, with a planned treatment course of 10 days 
of antibiotics, to finish on ___. Blood cultures with no growth 
to date on day of discharge.  

# Orthostasis: Orthostatic at ___'s office on day of admission. 
Likely hypovolemia in the setting of poor PO intake. Resolved by 
the next day after 1 L IVF in the ED. Eating/drinking well 
during admission. 

# Hypothyroidism: continued on home Levothyroxine  

TRANSITIONAL ISSUES:
========================
- repeat chest x-ray in ___ weeks after discharge to evaluate 
for resolution of RLL opacity
- discharged on Levofloxacin 750 mg PO/NG DAILY for a total 
course of 7 days, to finish ___
- discharged with a prescription for short course of Mucinex as 
well as codeine for cough suppression

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 112 mcg PO DAILY 

 
Discharge Medications:
1. Levofloxacin 750 mg PO DAILY 
to finish ___
 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Q24 Disp #*6 Tablet 
Refills:*0
2. Levothyroxine Sodium 112 mcg PO DAILY 
3. Guaifenesin ER 600 mg PO Q6H:PRN cough 
RX *guaifenesin [Mucinex] 600 mg 1 tablet(s) by mouth Q6H:PRN 
Disp #*30 Tablet Refills:*0
4. Codeine Sulfate 15 mg PO QHS:PRN cough 
RX *codeine sulfate 15 mg/2.5 mL (2.5 mL) 2.5 ML solution(s) by 
mouth QHS:PRN Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
=====================
Community-acquired pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ was a pleasure caring for you during your recent admission. 
You came to the hospital because you have a pneumonia. We 
started you on antibiotics for your pneumonia, and you began to 
feel better. Your vital signs were stable, and your fevers 
resolved. You were discharged home on ___. 

Please take your medications as directed, and follow-up with 
your PCP as outlined below. You should take your antibiotics 
through ___. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___